US07402581B2
1-(7-bromo-2,3-dihydro-1H-inden-5-yl)ethanone (8.6 g, 36 mmol) was dissolved in dimethoxyethane (100 mL) and to the solution were added NaClO aq (200 mL 1M, 200 mmol) and NaOH aq (20 mL 10 M, 200 mmol). The mixture was heated to 50° C. for 1 h and then diluted with water (200 mL). Sodium pyrosulfite (5.7 g, 30 mmol) was added. The mixture was washed with ether, acidified with concentrated HCl and then extracted twice with ether (150 mL). The organic solution was washed with brine, dried and then the solvent was evaporated. The solid residue was treated with cold CH2Cl2 (−40° C.), then filtered off and dried. There was obtained 7.1 g (82%) of 7-bromoindane-5-carboxylic acid as a solid material. 1H NMR (300 MHz, CD3OD): 2.0-2.2 (q, 2H), 2.9 (t, 2H), 3.1 (t, 2H), 7.8 (s, 1H), 7.9 (s, 1H).

reactant | 1-(7-bromo-2,3-dihydro-1H-inden-5-yl)ethanone | 36 mmol, 8.6 g | BrC=1C=C(C=C2CCCC12)C(C)=O | C11H11BrO
reactant | NaClO | 200 mmol, 1M, 200 mL | [O-]Cl.[Na+]
reactant | NaOH | 200 mmol, 10 M, 20 mL | [OH-].[Na+]
reactant | Sodium pyrosulfite | 30 mmol, 5.7 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | dimethoxyethane | 100 mL | C(OC)COC | C4H10O2
solvent | water | 200 mL | O | H2O
product | 7-bromoindane-5-carboxylic acid | 7.1 g, 82% | BrC=1C=C(C=C2CCCC12)C(=O)O | C10H9BrO2
